US04837305
6-Oxoheptanoic Acid p-Toluide (Compound IV, n=4, Y=p-methylanilino)
δ-Acetyl-n-valeric acid (1.0 g, 6.9 mmol) was dissolved in 50 ml anhydrous tetrahydrofuran and the solution cooled to 0° C. in an ice bath. N-methyl morpholine (0.76 ml, 6.9 mmol) was added followed by isobutyl chloroformate (0.90 ml, 6.9 mmol). After allowing the reaction to stir for 10 min, p-toluidine (0.74 g, 6.9 mmol) was added and the mixture stirred overnight at room temperature. The solvent was evaporated under reduced pressure and the residue redissolved in 150 ml ethyl acetate and 50 ml water. The organic phase was separated and extracted three times with 50 ml 0.1N hydrochloric acid, three times with 0.1N sodium hydroxide, twice with 50 ml brine and dried over sodium sulfate. After filtration from the drying agent and evaporation of the filtrate, the pale yellow solid was crystallized from ethyl acetate/hexanes yielding 1.2 g of needles that were homogeneous by thin layer chromatography (60:40 ethyl acetate/hexanes, Rf =0.31) m.p. 108.5°- 110° C.

reactant | N-methyl morpholine | 6.9 mmol, 0.76 ml | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 6.9 mmol, 0.90 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | p-toluidine | 6.9 mmol, 0.74 g | NC1=CC=C(C=C1)C | C7H9N
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 6-Oxoheptanoic Acid | O=C(CCCCC(=O)O)C | C7H12O3
